US05629325
51b. 5-bromo-3-(1-tosyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a suspension of 3,5-dibromopyridine (1.5 g, 6.05 mmol) and 60% NaH (307 mg, 7.7 mmol) in DMF (6 mL) was added 1-tosyl-2-(S)-pyrrolidinemethanol (1.4 g, 5.5 mmol), and the reaction mixture was stirred for 4 hours at room temperature and 1 hour at 60° C. The DMF was removed under reduced pressure, and the residue was chromatographed on a silica gel column, eluting with ethyl acetate/hexane 6:1 to afford the title compound (1.2 g).

reactant | 3,5-dibromopyridine | 6.05 mmol, 1.5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | NaH | 7.7 mmol, 307 mg | [H-].[Na+]
reactant | 1-tosyl-2-(S)-pyrrolidinemethanol | 5.5 mmol, 1.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@@H](CCC1)CO | C12H17NO3S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-(1-tosyl-2-(S)-pyrrolidinylmethoxy)pyridine | 1.2 g | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C)C=C1 | C17H19BrN2O3S
